US07015218B1
N-(4-{4-[N,N-Bis(2-hydroxyethyl)amino]piperidin-1-yl}-3-cyanophenyl)-1-(4-chlorophenyl)-5-methylpyrazole-4-carboxamide
By the reaction and treatment in the same manner as in Example 64 using 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid (1.0 g) and 5-amino-2-{4-[N,N-bis(2-hydroxyethyl)amino]piperidin-1-yl}benzonitrile (1.2 g), the title compound (0.2 g) was obtained, melting point: 230–233° C.

reactant | 1-(4-chlorophenyl)-5-methylpyrazole-4-carboxylic acid | 1.0 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)O | C11H9ClN2O2
reactant | 5-amino-2-{4-[N,N-bis(2-hydroxyethyl)amino]piperidin-1-yl}benzonitrile | 1.2 g | NC=1C=CC(=C(C#N)C1)N1CCC(CC1)N(CCO)CCO | C16H24N4O2
product | N-(4-{4-[N,N-Bis(2-hydroxyethyl)amino]piperidin-1-yl}-3-cyanophenyl)-1-(4-chlorophenyl)-5-methylpyrazole-4-carboxamide | 0.2 g | OCCN(CCO)C1CCN(CC1)C1=C(C=C(C=C1)NC(=O)C=1C=NN(C1C)C1=CC=C(C=C1)Cl)C#N | C27H31ClN6O3
